US06350747B1
A 2-L three-neck round bottom flask was fitted with an internal thermometer, 250-mL addition funnel, magnetic stir bar and septa. The flask was charged with nitrogen, 200 mL of dry THF, and 6-aminobenzothiazole (15.2 g, 0.100 mol). The mixture was stirred and cooled in a dry ice-acetone bath to an internal temperature of −74° C. A solution of tert-butyl hypoclorite (11.0 g, 0.103 mol) in 50 mL of dichloromethane was added over a 15 min period. The resultant solution was stirred for an additional 3 h at dry ice-acetone bath temperature. To the reaction was then added by slow, dropwise addition a solution of ethyl methylthioacetate (13.8 g, 0.103 mol) in 50 mL of dichoromethane. The resultant solution was stirred for an additional 3 h at dry ice-acetone bath temperature. A solution of triethyl amine (25.3 g, 0.250 mol) and 50 ml of dichloromethane was added at dry ice-acetone bath temperature, and the solution was stirred for 0.5 h. The cooling bath was removed, and the reaction was allowed to warm to rt. The reaction was then concentrated to a thick residue. The thick oil was resuspended in 200 mL of ether and 600 mL of 0.25 M hydrochloric acid. The mixture was allowed to stir for 24 h. The resulting solid was filtered from the mixture and triturated with water and ether. The solid was then resuspended in cold MeOH, filtered and dried under vacuum for 16 h to yield 18.7 g (79%) of 8-methylsulfanyl-6, 8-dihydro-1-thia-3,6-diaza-as-indacen-7-one:

reactant | 6-aminobenzothiazole | 0.100 mol, 15.2 g | NC1=CC2=C(N=CS2)C=C1 | C7H6N2S
reactant | tert-butyl hypoclorite | 0.103 mol, 11.0 g | ClOC(C)(C)C | C4H9ClO
reactant | ethyl methylthioacetate | 0.103 mol, 13.8 g | CCC(=S)OCC | C5H10OS
reactant | triethyl amine | 0.250 mol, 25.3 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichoromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 8-methylsulfanyl-6, 8-dihydro-1-thia-3,6-diaza-as-indacen-7-one | 18.7 g, 79% | CSC1C(NC2=CC=C3N=CSC3=C12)=O | C10H8N2OS2
